US07608633B2
A. tert-Butylindole-5-carboxylate
0.50 g (3.10 mmol) indole-5-carboxylic acid is suspended in 20 ml absolute benzene and heated under reflux. A solution of 2.80 g (12.39 mmol) 90% N,N-dimethylformamidedi-tert-butylacetal in 20 ml absolute benzene is added drop-wise within 30 min. Following another heating under reflux for 30 minutes and subsequent cooling, the reaction mixture is diluted with diethyl ether, washed with 5% sodium carbonate solution and with saturated NaCl solution. Drying on sodium sulfate, filtration and concentration on the rotary evaporator leave as a crude product a yellow oil which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 95:5) and yields the product as a white solid.

reactant | indole-5-carboxylic acid | 3.10 mmol, 0.50 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butylindole-5-carboxylate | C(C)(C)(C)OC(=O)C=1C=C2C=CNC2=CC1 | C13H15NO2
